US07592373B2
4.281.e. (3-bromobiphenyl-4-yl)propynoic acid
Prepared analogously to Example 4.3.a. from 3-bromo-4-ethynylbiphenyl and carbon dioxide. Yield: 2.5 g (89% of theory); C15H9BrO2 (M=301.13); calc.: molecular ion peak (M+H)+: 301/303 (Br); found: molecular ion peak (M+H)+: 301/303 (Br); Rf value: 0.3 (silica gel, dichloromethane/methanol (90:10)).

reactant | 3-bromo-4-ethynylbiphenyl | BrC=1C=C(C=CC1C#C)C1=CC=CC=C1 | C14H9Br
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dichloromethane methanol | ClCCl.CO
product | (3-bromobiphenyl-4-yl)propynoic acid | BrC=1C=C(C=CC1C#CC(=O)O)C1=CC=CC=C1 | C15H9BrO2
